US08748374B2
7-fluoro-3-(trifluoromethyl)quinoxalin-2-ol
tert-Butyl 2-amino-5-fluorophenylcarbamate (30.5 g), toluene (300 mL), triethylamine (34.1 g) and ethyl 3,3,3-trifluoro-2-oxopropanoate (69.5 g) were charged into a reactor and warmed to 63° C. for 14 h, then cooled to ambient temperature. A 5% aq. NaOH solution (390 mL) was added, stirred, settled, and then the lower layer was separated. The organic layer extracted with another charge of 5% aq. NaOH solution (130 mL). To the combined aq. NaOH layers was charged 2-methyl-THF (390 mL) and concentrated HCl (77.9 g), keeping the temperature below 25° C. The layers were mixed, settled and separated. The acidic aq. layer was separated, and the organic layer was extracted with water (260 mL). The layers were separated and the organic layer was filtered to remove insoluble material. The product was isolated by switching the solvent to toluene by distillation (a total of 1.1 L toluene used). The final slurry was briefly warmed to 80° C. and then cooled −10° C. and filtered. The cake was washed with toluene (128 mL), then dried under vacuum at 60° C. To the crude solid was added ethanol (350 mL) and warmed to reflux to dissolve the solids. The solution was cooled to room temperature and concentrated to approximately 270 mL total volume by distillation. Water (250 g) was then added over 30 min. The slurry was filtered and washed with cold (1:1) ethanol: water (2×60 mL). The solid was dried under vacuum at 60° C. (26.1 g, 83% yield).

reactant | tert-Butyl 2-amino-5-fluorophenylcarbamate | 30.5 g | NC1=C(C=C(C=C1)F)NC(OC(C)(C)C)=O | C11H15FN2O2
reactant | ethyl 3,3,3-trifluoro-2-oxopropanoate | 69.5 g | FC(C(C(=O)OCC)=O)(F)F | C5H5F3O3
reactant | NaOH | 390 mL | [OH-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 34.1 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
product | 7-fluoro-3-(trifluoromethyl)quinoxalin-2-ol | 83% yield | FC1=CC=C2N=C(C(=NC2=C1)O)C(F)(F)F | C9H4F4N2O
